US06313127B1
A solution of 1-(4-hydroxyphenyl)-4-(4-pyridyl)piperazine (670 mg), 4-fluorobenzonitrile (354 mg) and powdered potassium carbonate (445 mg) was stirred at 95° C. in DMSO (12 ml) for 18 hours. The solution was poured into water (180 ml) to give a precipitate which was filtered, washed with water and dried. The solid was purified by chromatography on alumina (ICN Alumina N 32-63) using 1% methanol in dichloromethane as eluant. This gave a solid which was recrystallised from a mixture of ethyl acetate/isohexane to give 1-(4-cyanophenoxyphenyl)-4-(4-pyridyl)piperazine (126 mg) as a solid. m.p. 180-182° C.

reactant | 1-(4-hydroxyphenyl)-4-(4-pyridyl)piperazine | 670 mg | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H17N3O
reactant | 4-fluorobenzonitrile | 354 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 445 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 180 ml | O | H2O
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
product | 1-(4-cyanophenoxyphenyl)-4-(4-pyridyl)piperazine | 126 mg | C(#N)C1=CC=C(OC2=C(C=CC=C2)N2CCN(CC2)C2=CC=NC=C2)C=C1 | C22H20N4O
